Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-1.20908333771
[H:1][O:2]/[C:3]([H:4])=[C:5]1\[C:6][C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:6]#[C:7][C:9](=[C:5]([H:8])[H:11])[H:10],-1.09759867945
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],1.29937639885
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],4.50872282419
[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[H:9]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-0.35293434345700003
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[H:10].[H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-3.04344842975
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][C:4]([H:5])[C:7]#[C:8][H:9].[H:1][C:6]([H:10])[H:11],4.70321264807
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[O:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.07098982547
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.90581270548
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[C:10]([H:11])([H:12])[H:13],3.86696082701
[O:1]=[C:2]1[C:3]([H:4])[O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@@:6]([O:5][C:3][H:4])([H:7])[C:8]([H:9])([H:10])[H:11],2.78025208879
[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.6486867633869999
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])([H:4])[C:5][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],4.44819546073
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.39720096181
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2],6.05754974922
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.4581331983
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])=[O:6],1.91680880463
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-4.93235179
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-6.496446886980001
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],-4.6334716575
[C:9]([H:10])([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.44044497936
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])[H:9].[H:5],2.7555171815
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.609664227930001
[H:9].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.53998757381
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.26079743814
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3](=[O:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],-0.63551825312
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.5496030855
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6][O:7][H:8]>>[H:8].[O:1]=[C:2]([H:3])[C:4][C:5]#[C:6][O:7],1.61243803475
